US08957070B2
N-[2-(Pyrrolidin-1-ylcarbonyl)-1H-indol-7-yl]thiophene-2-sulfonamide
To a mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (200 mg), pyrrolidine (65 μL), 1H-1,2,3-benzotriazol-1-ol (150 mg) and N,N-dimethylformamide (8 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (190 mg) at 4° C., and the mixture was stirred at room temperature for 18 hr. The reaction mixture was diluted with ethyl acetate, washed with aqueous citric acid solution, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (210 mg, yield 90%) as pale-yellow needle crystals. melting point 248-249° C.

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 200 mg | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C13H10N2O4S2
reactant | pyrrolidine | 65 μL | N1CCCC1 | C4H9N
reactant | 1H-1,2,3-benzotriazol-1-ol | 150 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 190 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | N-[2-(Pyrrolidin-1-ylcarbonyl)-1H-indol-7-yl]thiophene-2-sulfonamide | 210 mg, yield 90% | N1(CCCC1)C(=O)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C17H17N3O3S2
